US04859229
using 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione in acetone with sodium bicarbonate and dimethyl sulphate there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-1-methyl-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione, m.p. 107°-109° C.;

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=C(C1=O)F)C(C(F)(F)F)(F)F)=O)F | C15H10ClF7N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | CC(=O)C | C3H6O
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-1-methyl-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(N(C(=C(C1=O)F)C(C(F)(F)F)(F)F)C)=O)F | C16H12ClF7N2O3
